US07795288B2
1-Isothiocyanato-4-methoxy-2-methyl-benzene
The title compound is prepared as described in Example 1 for 1-[2-(4 isothiocyanato-phenoxy)-ethyl]-pyrrolidine but using 4-methoxy-2-methylaniline. Title compound: ES-MS: 180.9 [M+H]+; single peak at tR=5.56 min (System 2).

reactant | 1-[2-(4 isothiocyanato-phenoxy)-ethyl]-pyrrolidine | N(=C=S)C1=CC=C(OCCN2CCCC2)C=C1 | C13H16N2OS
reactant | 4-methoxy-2-methylaniline | COC1=CC(=C(N)C=C1)C | C8H11NO
product | 1-Isothiocyanato-4-methoxy-2-methyl-benzene | N(=C=S)C1=C(C=C(C=C1)OC)C | C9H9NOS
